US07612075B2
A. N-Cbz-O-methylserine-aminoacetaldehyde dimethyl acetal.
To a solution of N-Cbz-O-methylserine (10.8 g, 41.8 mmol) in 500 mL of CH2Cl2 is added Et3N (12.7 g, 125 mmol). The solution is cooled to 0° C. and TBTU (13.5 g, 42 mmol) and aminoacetaldehyde dimethyl acetal (4.83 g, 46 mmol) are added. The solution is stirred for 16 hours. The solution is diluted with 500 mL of ether. The resulting solution is washed with water, 1N KHSO4, and sat. NaCl. The title compound (13.7 g, 41.8 mmol) is obtained as a white foam. 1H NMR (CDCl3, 300 MHz) δ7.40 (m, 5H), 6.55 (bs, 1H), 5.66 (bs, 1H), 5.32 (m, 1H), 5.13 (s, 2H), 4.32 (m, 2H), 3.79 (dd, 1H), 3.44 (m, 2H), 3.40 (m, 9H).

reactant | N-Cbz-O-methylserine | 41.8 mmol, 10.8 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](COC)C(=O)O | C12H15NO5
reactant | Et3N | 125 mmol, 12.7 g | CCN(CC)CC | C6H15N
reactant | TBTU | 42 mmol, 13.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | aminoacetaldehyde dimethyl acetal | 46 mmol, 4.83 g | COC(CN)OC | C4H11NO2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 500 mL | CCOCC | C4H10O
product | N-Cbz-O-methylserine aminoacetaldehyde dimethyl acetal | 41.8 mmol, 13.7 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](COC)C(=O)O.COC(CN)OC | InChI=1S/C12H15NO5.C4H11NO2/c1-17-8-10(11(14)15)13-12(16)18-7-9-5-3-2-4-6-9;1-6-4(3-5)7-2/h2-6,10H,7-8H2,1H3,(H,13,16)(H,14,15);4H,3,5H2,1-2H3/t10-;/m0./s1
